US08252806B2
(4-tert-Butyl-cyclohexyl)-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride (Compound A21)
Was prepared according to Method A from 2,4-dichloroquinazoline, 4-tert-butylcyclohexylamine and 3,5-dimethylpyrazole. Mp. 253-255° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 4-tert-butylcyclohexylamine | C(C)(C)(C)C1CCC(CC1)N | C10H21N
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | (4-tert-Butyl-cyclohexyl)-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride | Cl.C(C)(C)(C)C1CCC(CC1)NC1=NC(=NC2=CC=CC=C12)N1N=C(C=C1C)C | InChI=1S/C23H31N5.ClH/c1-15-14-16(2)28(27-15)22-25-20-9-7-6-8-19(20)21(26-22)24-18-12-10-17(11-13-18)23(3,4)5;/h6-9,14,17-18H,10-13H2,1-5H3,(H,24,25,26);1H
